US05041673
(±)-(1S,2S,3S)-3-Amino-1-chloro-1,2,3,4-tetrahydro-2-phenanthrenol, hydrochloride
3-Amino-1-chloro-1,2,3,4-tetrahydro-2-phenanthrenol (103 mg) in trifluoroacetic acid (10 ml) was refluxed for 3 hours. The green mixture was evaporated and the residue was taken up in methanol and acidified with a solution of hydrochloric acid in diethyl ether. The evaporation residue was treated with charcoal in methanol. Filtration gave a clear solution which was evaporated to yield the crude compound as a solid (99 mg). Recrystallization from ethanol/diethyl ether afforded the title compound (40 mg) as a white solid, m.p. 247° C. (dec.).

reactant | 3-Amino-1-chloro-1,2,3,4-tetrahydro-2-phenanthrenol | 103 mg | NC1C(C(C=2C=CC3=CC=CC=C3C2C1)Cl)O | C14H14ClNO
solvent | trifluoroacetic acid | 10 ml | FC(C(=O)O)(F)F | C2HF3O2
product | (±)-(1S,2S,3S)-3-Amino-1-chloro-1,2,3,4-tetrahydro-2-phenanthrenol, hydrochloride | 40 mg | Cl.N[C@@H]1[C@@H]([C@H](C=2C=CC3=CC=CC=C3C2C1)Cl)O | InChI=1S/C14H14ClNO.ClH/c15-13-10-6-5-8-3-1-2-4-9(8)11(10)7-12(16)14(13)17;/h1-6,12-14,17H,7,16H2;1H/t12-,13-,14-;/m0./s1
